US08247429B2
methyl 9-(2-aminoethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate
Methyl 9-(cyanomethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (300 mg, 0.905 mmol) and Raney cobalt (3 g) were suspended in 2M ammonia/ethanol solution (15 mL), and the suspension was stirred under a hydrogen atmosphere at room temperature for 12 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound (295 mg, yield 97%).

reactant | Methyl 9-(cyanomethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.905 mmol, 300 mg | C(#N)CC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OC)C1=CC=CC=C1 | C20H17N3O2
solvent | ammonia ethanol | 2M, 15 mL | N.C(C)O
catalyst | cobalt | 3 g | [Co] | Co
product | methyl 9-(2-aminoethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 295 mg, yield 97% | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OC)C1=CC=CC=C1 | C20H21N3O2
